data/rdb19/train.csv
rxn,smiles,ea
1494,[C:10]([C:11]([C:12]([H:13])[H:14])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])([H:21])([H:22])[H:23].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:24])[H:7])[H:6],26.96622862125514
1792,[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:18]([C:16]([C:15]([H:21])([H:22])[H:23])=[C:17]([H:24])[H:25])([O:19])[O:20][H:26])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]1([H:11])([H:12])[C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:18]([C:16]([C:15]([H:21])([H:22])[H:23])=[C:17]([H:24])[H:25])([O:20][H:26])[O:19]1,56.62168185674818
4049,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:25])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])[H:26],26.48475367651554
3546,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:17]([C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23])([H:9])[H:10])([H:6])([H:7])[H:8],14.034088964865076
437,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8](=[C:9]([H:16])[H:17])[C:10](=[O:11])[O:12][H:18])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][H:13])([H:4])([H:5])[H:6].[C:7]([C:8](=[C:9]([H:16])[H:17])[C:10](=[O:11])[O:12][H:18])([H:14])[H:15],24.94257943087723
739,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:24]([C:22]([O:21][C:20]([C:19]([H:28])([H:29])[H:30])([H:31])[H:32])=[O:23])([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]1([C:4]([H:14])([H:15])[H:16])([H:13])[C:5]([N:7]([H:17])[H:18])([C:24]([C:22]([O:21][C:20]([C:19]([H:28])([H:29])[H:30])([H:31])[H:32])=[O:23])([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34])[O:6]1,55.53145998675609
5310,[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22]([C:21]([H:27])([H:28])[H:29])([O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22](=[O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([H:27])([H:28])[H:29],8.494512672070414
4037,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:33])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25][c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29],25.25282820040593
4558,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])[H:24])([H:20])([H:21])[H:22].[C:1]([H:7])([H:8])([H:9])[H:23].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],87.75158607278718
5223,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:24]([H:34])([H:35])[H:36])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]([C:23]([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30],54.49990224227077
1952,[C:11]([C:12]([H:13])[H:14])([H:15])([H:16])[H:17].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[C:12]([C:11]([H:15])([H:16])[H:17])([H:13])[H:14])([H:6])[H:7],15.8687175080413
